US08309734B2
Step 2: 2-Chloro-4-ethynyl-benzoic acid methyl ester
To a solution of 2-chloro-4-trimethylsilanylethynyl-benzoic acid methyl ester (4.52 g, 12.0 mmol, 1.0 equiv; 70% purity) in THF (50 mL) was as added a 1 M solution of tetrabutylammonium fluoride in THF (14.4 mL, 14.40 mmol, 1.20 equiv; [CAS RN 429-41-4]) and the reaction mixture stirred at rt over night. The crude reaction was extracted from a sat. solution of NH4Cl (50 mL) with ethyl acetate (3×50 mL) and the combined organic phases dried over Na2SO4. Purification of the crude reaction product by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a mixture of dichloromethane/methanol (4:1) provided 1.12 g (48%) of the title compound as a slightly orange solid. MS (ISN): 195.1 [M+H]+.

reactant | 2-chloro-4-trimethylsilanylethynyl-benzoic acid methyl ester | 12.0 mmol, 4.52 g, 1.0 equiv | COC(C1=C(C=C(C=C1)C#C[Si](C)(C)C)Cl)=O | C13H15ClO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 14.40 mmol, 14.4 mL, 1.20 equiv | C1CCOC1 | C4H8O
product | 2-Chloro-4-ethynyl-benzoic acid methyl ester | 1.12 g, 48% | COC(C1=C(C=C(C=C1)C#C)Cl)=O | C10H7ClO2
